US07250433B2
To a solution of the 1-(2-trityl-2H-tetrazol-5-yl)-spiro[2.5]octane-1-carbonitrile (2.40 g, 2.39 mmol) in 100 mL MeOH:THF (1:1) was added PtO2 (0.15 g), concentrated HCl (1.67 g), and the mixture was hydrogenated in a Parr shaker at 48 psi for 20 h. The mixture was filtered and concentrated. Flash chromatography of the residue on silica gel (0.25:1.25:3.5 conc. NH4OH (aq):MeOH:CH2Cl2) furnished 0.40 g (36%) of C-[1-(1H-tetrazol-5-yl)-spiro[2.5]oct-1-yl]-methylamine as a colorless solid. 1H NMR (CD3OD) δ 3.77 (d, J=13.2 Hz, 1H, —CH2H2), 3.07 (d, J=13.2 Hz, 1H, —CH2H2), 1.66 (m, 1H), 1.53 (d, J=5.1 Hz, 1H, cyclopropyl —CHH), 1.47-1.59 (m, 4H), 1.22-1.42 (m, 3H), 1.06 (m, 1H), 0.97 (m, 1H), 0.88 (d, J=5.1 Hz, 1H, cyclopropyl —CHH). 13C NMR (CD3OD) δ 161.18, 31.61, 31.51, 26.00, 25.76, 25.30, 24.78, 21.67. LRMS: m/z 206.1 (M−1). Anal. Calc'd for C10H17N5: C, 57.95; H, 8.27; N, 33.79. Found: C, 56.83; H, 8.24; N, 33.40.

reactant | 1-(2-trityl-2H-tetrazol-5-yl)-spiro[2.5]octane-1-carbonitrile | 2.39 mmol, 2.40 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=C(N=N1)C1(CC12CCCCC2)C#N | C29H27N5
reactant | HCl | 1.67 g | Cl | ClH
solvent | MeOH THF | 100 mL | CO.C1CCOC1
catalyst | PtO2 | 0.15 g | O=[Pt]=O
product | C-[1-(1H-tetrazol-5-yl)-spiro[2.5]oct-1-yl]-methylamine | 0.40 g, 36% | N1N=NN=C1C1(CC12CCCCC2)CN | C10H17N5
